US07465815B2
(+)-3-(4-Methoxyphenyl)-N-((3R)-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)propionamide
Using (+)-(3R)-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 134 and-4-methoxyphenylpropionic acid, the title compound was synthesized in the same manner as in Reference Example 359. Yield 21%. Melting point: 170-172° C. (ethyl acetate-hexane).

reactant | (+)-(3R)-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | CC1(OC2=C([C@H]1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
reactant | 4-methoxyphenylpropionic acid | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (+)-3-(4-Methoxyphenyl)-N-((3R)-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)propionamide | Yield 21% | COC1=CC=C(C=C1)CCC(=O)NC=1C(=C(C2=C([C@H](C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C30H35NO3
